US07109199B2
5-Phenyl-1H-pyrazolo[3,4-b]pyridin-3-ylamine
Hydrazine hydrate (1.42 g, 28 mmol) was added to a stirred solution of 2-chloro-5-phenylnicotinonitrile (2.45 g, 11.4 mmol) in pyridine (25 ml). The reaction mixture was stirred at reflux for 6 hours, cooled and the resulting solid was filtered and dried in vacuo, affording the title compound as a solid.

reactant | Hydrazine hydrate | 28 mmol, 1.42 g | O.NN
reactant | 2-chloro-5-phenylnicotinonitrile | 11.4 mmol, 2.45 g | ClC1=C(C#N)C=C(C=N1)C1=CC=CC=C1 | C12H7ClN2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 5-Phenyl-1H-pyrazolo[3,4-b]pyridin-3-ylamine | C1(=CC=CC=C1)C=1C=C2C(=NC1)NN=C2N | C12H10N4
